US04259504
4-[1-(p-Fluorophenyl)-1H-1,2,4-triazol-5-yl]pyridine
A 6.0 g. portion of N-(dimethylaminomethylene)isonicotinamide is added to a mixture prepared by adding 6.05 g. of p-fluorophenylhydrazine hydrochloride to 80 ml. of 30% aqueous acetic acid, 40 ml. of p-dioxane and 7.5 ml. of 5 N sodium hydroxide. The mixture is heated to reflux for 1.5 hours, poured into water and allowed to stand overnight. Extraction with ether gives a dark solid which is recrystallized from acetone-hexane giving 1.7 g. of the desired product, mp. 114°-115° C.

reactant | N-(dimethylaminomethylene)isonicotinamide | CN(C)C=NC(C1=CC=NC=C1)=O | C9H11N3O
reactant | p-fluorophenylhydrazine hydrochloride | Cl.FC1=CC=C(C=C1)NN
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | water | O | H2O
solvent | p-dioxane | O1CCOCC1 | C4H8O2
product | 4-[1-(p-Fluorophenyl)-1H-1,2,4-triazol-5-yl]pyridine | FC1=CC=C(C=C1)N1N=CN=C1C1=CC=NC=C1 | C13H9FN4
